US06303593B1
1-(2,2,2-Trichloroethoxycarbonyl)-4-(2-(phenylmercapto)ethyl)piperidine
A solution of 1.24 g (3.98 mmol) of 1-benzyl-4-(2-(phenylmercapto)-1-ethyl)piperidine and 0.61 mL (4.4 mmol) of 2,2,2-trichloroethylchloroformate in 10 mL of acetonitrile was stirred at rt for 2.5 h. The reaction mixture was concentrated and the residue was purified by chromatography (silica, hexanes:ehtyl acetate, 4:1) to give 1.48 g of the title compound.

reactant | 1-benzyl-4-(2-(phenylmercapto)-1-ethyl)piperidine | 3.98 mmol, 1.24 g | C(C1=CC=CC=C1)N1CCC(CC1)CCSC1=CC=CC=C1 | C20H25NS
reactant | 2,2,2-trichloroethylchloroformate | 4.4 mmol, 0.61 mL | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(2,2,2-Trichloroethoxycarbonyl)-4-(2-(phenylmercapto)ethyl)piperidine | 1.48 g | ClC(COC(=O)N1CCC(CC1)CCSC1=CC=CC=C1)(Cl)Cl | C16H20Cl3NO2S
